US07091237B2
ethyl{2-methyl-4-[({5-[4-(trifluoromethyl)phenyl]-3-furyl}methyl)thio]phenoxy}acetate
A solution of {5-[4-(trifluoromethyl)phenyl]-3-furyl}methanol (0.15 g) in tetrahydrofuran (15 ml) stirred at 0° C. was treated with tributylphosphine (0.2 ml), as solution of ethyl(4-mercapto-2-methylphenoxy)acetate (0.150 g) in tetrahydrofuran (2 ml) and finally azodicarbonyldimorpholide (0.204 g). The reaction was allowed to warm to ambient temperature and stirred for 18 hours. The solvent was evaporated and the residue subjected to an aqueous work up using ethyl acetate and water. The organic phase was dried over magnesium sulfate. The product isolated after evaporation of the solvent was further purified by flash column chromatography using a cyclohexane:ethyl acetate (5:1) as eluent to give the title compound.

reactant | {5-[4-(trifluoromethyl)phenyl]-3-furyl}methanol | 0.15 g | FC(C1=CC=C(C=C1)C1=CC(=CO1)CO)(F)F | C12H9F3O2
reactant | tributylphosphine | 0.2 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | ethyl(4-mercapto-2-methylphenoxy)acetate | 0.150 g | C(C)OC(COC1=C(C=C(C=C1)S)C)=O | C11H14O3S
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | ethyl{2-methyl-4-[({5-[4-(trifluoromethyl)phenyl]-3-furyl}methyl)thio]phenoxy}acetate | C(C)OC(COC1=C(C=C(C=C1)SCC1=COC(=C1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C23H21F3O4S
